### PR TITLE
feat: add `BitVec.[(toFin, toInt)_setWidth', msb_setWidth'_of_lt, toNat_lt_twoPow_of_le, toInt_setWidth'_of_lt]`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `BitVec.[(toFin, toInt)_setWidth', msb_setWidth'_of_lt, toNat_lt_twoPow_of_le, toInt_setWidth'_of_lt]`, completing the API for `BitVec.setWidth'`.

Co-authored by @alexkeizer.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -940,7 +950,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:953]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3079,7 +3089,7 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
   simp [toInt_eq_toNat_bmod, @Int.ofNat_sub y.toNat (2 ^ w) (by omega)]
 
 theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
-    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
+    (x.toInt - y.toInt < - 2 ^ (w - 1))
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3092]:
```suggestion
    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -3095,7 +3105,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3108]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -940,7 +971,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:974]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -3079,7 +3110,7 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
   simp [toInt_eq_toNat_bmod, @Int.ofNat_sub y.toNat (2 ^ w) (by omega)]
 
 theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
-    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
+    (x.toInt - y.toInt < - 2 ^ (w - 1))
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3113]:
```suggestion
    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -3095,7 +3126,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3129]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -940,7 +968,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:971]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -3079,7 +3107,7 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
   simp [toInt_eq_toNat_bmod, @Int.ofNat_sub y.toNat (2 ^ w) (by omega)]
 
 theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
-    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
+    (x.toInt - y.toInt < - 2 ^ (w - 1))
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3110]:
```suggestion
    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -3095,7 +3123,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3126]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -128,6 +128,12 @@ theorem toNat_ne_iff_ne {n} {x y : BitVec n} : x.toNat ≠ y.toNat ↔ x ≠ y :
 @[bitvec_to_nat] theorem toNat_ne {x y : BitVec n} : x ≠ y ↔ x.toNat ≠ y.toNat := by
   rw [Ne, toNat_eq]
 
+protected theorem toNat_lt_of_le (h : m ≤ n) (x : BitVec m) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:131]:
```suggestion
protected theorem toNat_lt_of_le (h : m ≤ n) {x : BitVec m} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -921,6 +927,28 @@ and the second `setWidth` is a non-trivial extension.
   have := @lt_of_getLsbD u x i
   by_cases h' : x.getLsbD i = true <;> simp [h'] at * <;> omega
 
+@[simp] theorem msb_setWidth'_of_lt {m n : Nat} (p : m < n) (x : BitVec m) :
+    (setWidth' (by omega : m ≤ n) x).msb = false := by
+  have h : x.getLsbD (n - 1) = false := getLsbD_ge _ _ (by omega)
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:932]:
```suggestion
  have h : x.getLsbD (n - 1) = false := by apply getLsbD_ge <;> (by omega)
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -921,6 +927,28 @@ and the second `setWidth` is a non-trivial extension.
   have := @lt_of_getLsbD u x i
   by_cases h' : x.getLsbD i = true <;> simp [h'] at * <;> omega
 
+@[simp] theorem msb_setWidth'_of_lt {m n : Nat} (p : m < n) (x : BitVec m) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:930]:
```suggestion
@[simp] theorem msb_setWidth'_of_lt {m n : Nat} (p : m < n) {x : BitVec m} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -921,6 +927,28 @@ and the second `setWidth` is a non-trivial extension.
...
+    (setWidth' (by omega : m ≤ n) x).msb = false := by
+  have h : x.getLsbD (n - 1) = false := getLsbD_ge _ _ (by omega)
+  simp [msb_setWidth', -setWidth'_eq, h]
+
+@[simp] theorem toInt_setWidth'_of_lt {m n : Nat} (p : m < n) (x : BitVec m) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:935]:
```suggestion
@[simp] theorem toInt_setWidth'_of_lt {m n : Nat} (p : m < n) {x : BitVec m} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -921,6 +927,28 @@ and the second `setWidth` is a non-trivial extension.
...
+    (setWidth' (by omega : m ≤ n) x).toInt = x.toNat := by
+  rw [toInt_eq_toNat_of_msb]
+  · rfl
+  · apply msb_setWidth'_of_lt p
+
+theorem toInt_setWidth' {m n : Nat} (p : m ≤ n) (x : BitVec m) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:941]:
```suggestion
theorem toInt_setWidth' {m n : Nat} (p : m ≤ n) {x : BitVec m} :
```

**Review by bollu — APPROVED** [review]
LGTM modulo making the bitvector implicit.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -128,6 +128,12 @@ theorem toNat_ne_iff_ne {n} {x y : BitVec n} : x.toNat ≠ y.toNat ↔ x ≠ y :
 @[bitvec_to_nat] theorem toNat_ne {x y : BitVec n} : x ≠ y ↔ x.toNat ≠ y.toNat := by
   rw [Ne, toNat_eq]
 
+protected theorem toNat_lt_of_le (h : m ≤ n) {x : BitVec m} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:131]:
```suggestion
protected theorem toNat_lt_twoPow_of_le (h : m ≤ n) {x : BitVec m} :
```

**Review by bollu — APPROVED** [review]
LGTM, modulo naming nit.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -921,6 +927,29 @@ and the second `setWidth` is a non-trivial extension.
...
+    (setWidth' p x).toInt = if m = n then x.toInt else x.toNat := by
+  split
+  case isTrue h   => simp [h, toInt_eq_toNat_bmod]
+  case isFalse h  => rw [toInt_setWidth'_of_lt (by omega)]
+
+@[simp] theorem toFin_setWidth' {m n : Nat} (p : m ≤ n) (x : BitVec m) :
+    (setWidth' p x).toFin = x.toFin.castLE (Nat.pow_le_pow_right (by omega) (by omega)) := by
+  ext
+  rw [setWidth'_eq, toFin_setWidth, Fin.val_ofNat', Fin.coe_castLE, val_toFin,
+    Nat.mod_eq_of_lt (by apply BitVec.toNat_lt_of_le p)]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:951]:
```suggestion
    Nat.mod_eq_of_lt (by apply BitVec.toNat_lt_twoPow_of_le p)]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -940,7 +969,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:972]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 18]
```diff
@@ -3095,7 +3124,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3127]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 19]
```diff
@@ -3079,7 +3108,7 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
   simp [toInt_eq_toNat_bmod, @Int.ofNat_sub y.toNat (2 ^ w) (by omega)]
 
 theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
-    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
+    (x.toInt - y.toInt < - 2 ^ (w - 1))
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3111]:
```suggestion
    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
```

**Comment by luisacicolini** [comment]
awaiting-review
